US04377699
1428 g (12 moles) of indoline and 3000 ml of chloroform were admixed with stirring with 1350 g (132 moles) of acetic acid anhydride with cooling to keep the temperature at 20° to 30° C. and the mixture was stirred for one hour. Then, 600 ml of water were added thereto followed by addition in portions over 71/2 hours to the mixture of 702 g (6.6 moles) of sodium carbonate with vigorous stirring and external cooling during which carbon dioxide evolved. Within 7.5 hours 937 g (13.2 moles) of chlorine were added to the mixture held at no more than 30° C. and the mixture was stirred for 30 minutes. 3000 g of water were added to the mixture which was stirred for 15 minutes after which the organic phase was separated and evaporated to dryness under reduced pressure at 130° C. At 70° to 75° C. 2400 ml of isopropanol were added to the residue and the mixture was stirred with heating until total dissolution occured and the mixture was cooled to room temperature and was stirred at 20° to 25° C. for one hour. The mixture was vacuum filtered to obtain 5-chloro-1-acetyl-indoline melting at 115° to 116° C. which was washed with 1500 ml of isopropanol.

reactant | indoline | 12 moles, 1428 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | acetic acid anhydride | 132 moles, 1350 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 6.6 moles, 702 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | chlorine | 13.2 moles, 937 g | ClCl | Cl2
solvent | water | 3000 g | O | H2O
solvent | water | 600 ml | O | H2O
solvent | chloroform | 3000 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-1-acetyl-indoline | ClC=1C=C2CCN(C2=CC1)C(C)=O | C10H10ClNO
